US04247548
3-Benzenesulphonyloxyisoxazol-5-ylacetic acid
To a solution of 1.55 g (5 mmoles) of benzhydryl 3-hydroxyisoxazol-5-ylacetate in 20 ml of ethyl acetate were added 0.71 ml (5.1 mmoles) of triethylamine and 0.65 ml (5.05 mmoles) of benzenesulphonyl chloride. After stirring the mixture for 1 hour, it was washed with water and then dried. The solvent was distilled off to give the benzhydryl ester of the title compound quantitatively. The ester was then treated in the same manner as described in Preparation 5, affording 1.30 g of the title compound.

reactant | benzhydryl 3-hydroxyisoxazol-5-ylacetate | 5 mmoles, 1.55 g | OC1=NOC(=C1)CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO4
reactant | triethylamine | 5.1 mmoles, 0.71 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulphonyl chloride | 5.05 mmoles, 0.65 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-Benzenesulphonyloxyisoxazol-5-ylacetic acid | C1(=CC=CC=C1)S(=O)(=O)OC1=NOC(=C1)CC(=O)O | C11H9NO6S
